US04873251
(S)-2-(4-Chlorophenyl)-N-[2-(dimethylamino)ethyl]-α-methyl-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride hydrate [1:2:0.5]
A solution of crude (S)-2-(4-chlorophenyl)-N-[2-dimethylamino) ethyl]-α-methyl-3H-imidazo[4,5-b]pyridine-3-acetamide (1.49 g, 0.00335 mole) in hot isopropyl alcohol was treated with hydrogen chloride in isopropyl alcohol until the solution was acidic. Upon addition of isopropyl ether, solid precipitated. After cooling to room temperature, the solid was collected by filtration, rinsed with isopropyl ether, and dried under high vacuum to give 1.64 g of title compound, mp 252°-255° C.

reactant | α-methyl-3H-imidazo[4,5-b]pyridine-3-acetamide | 0.00335 mole, 1.49 g | CC(C(=O)N)N1C=NC=2C1=NC=CC2 | C9H10N4O
reactant | hydrogen chloride | Cl | ClH
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | (S)-2-(4-Chlorophenyl)-N-[2-(dimethylamino)ethyl]-α-methyl-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride hydrate | 1.64 g | O.Cl.ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1[C@H](C(=O)NCCN(C)C)C | InChI=1S/C19H22ClN5O.ClH.H2O/c1-13(19(26)22-11-12-24(2)3)25-17(14-6-8-15(20)9-7-14)23-16-5-4-10-21-18(16)25;;/h4-10,13H,11-12H2,1-3H3,(H,22,26);1H;1H2/t13-;;/m0../s1
